US06716878B1
STEP A: 2(S)-Amino-N-methoxy-3,3,N-trimethyl-butyramide
To a solution of [1(S)-(methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic acid-tert-butyl ester (1.686 g, 6.15 mmol) in dichloromethane (20 mL) at 0° C. was added trifluoroacetic acid (17 mL). The reaction was allowed to stand for 16 hours at <5° C. before the solvents were removed in vacuo to give a bright yellow oil. The residue was dissolved in methanol (30 mL) and was treated portionwise with Dowex 1X8-400 basic resin until pH 9. Filtration and removal of the solvents in vacuo gave the title compound as a pale yellow oil (990 mg, 92%). The material was used without further purification.

reactant | [1(S)-(methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic acid-tert-butyl ester | 6.15 mmol, 1.686 g | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(N(C)OC)=O)=O | C13H26N2O4
reactant | trifluoroacetic acid | 17 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 30 mL | CO | CH4O
product | 2(S)-Amino-N-methoxy-3,3,N-trimethyl-butyramide | 990 mg, 92% | N[C@H](C(=O)N(C)OC)C(C)(C)C | C8H18N2O2
